US05814644
Thionyl chloride (1.62 ml, 22.3 mmol) was added to a solution of indole-2-carboxylic acid (3.0 g, 18.6 mmol) in toluene (40 ml), the mixture heated at reflux for 3 h and then cooled to room temperature. 1-Benzylpiperazine (3.7 ml, 20.4 mmol) was added and the resultant precipitate collected by filtration, washed with toluene, and dried in vacuo to give 2-(4-benzylpiperazin-1-yl) carbonyl indole hydrochloride (6.5 g, 98%). M.p. >210° C. (dec).

reactant | Thionyl chloride | 22.3 mmol, 1.62 ml | S(=O)(Cl)Cl | Cl2OS
reactant | indole-2-carboxylic acid | 18.6 mmol, 3.0 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | 1-Benzylpiperazine | 20.4 mmol, 3.7 ml | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-benzylpiperazin-1-yl) carbonyl indole hydrochloride | 6.5 g, 98% | Cl.C(C1=CC=CC=C1)N1CCN(CC1)C(=O)C=1NC2=CC=CC=C2C1 | InChI=1S/C20H21N3O.ClH/c24-20(19-14-17-8-4-5-9-18(17)21-19)23-12-10-22(11-13-23)15-16-6-2-1-3-7-16;/h1-9,14,21H,10-13,15H2;1H
